US07414050B2
c) 2-Cyclohex-1-enyl-4-(1,1-dioxo-1λ6-[1,2,6]thiadiazinan-4-yl)-phenylamine
2-Bromo-4-(1,1-dioxo-1λ6-[1,2,6]thiadiazinan-4-yl)-phenylamine (as prepared in the previous step, 46.9 mg, 0.153 mmol) was reacted with cyclohexane-1-enyl boronic acid (24.1 mg, 0.191 mmol) according to the Suzuki coupling procedure of Example 4, step (e) and purified on silica (20-100% EtOAc-hexane) to afford the title compound (30.7 mg, 65%): Mass spectrum (ESI, m/z): Calcd. for C15H21N3O2S, 308.1 (M+H). found 308.1.

reactant | 2-Bromo-4-(1,1-dioxo-1λ6-[1,2,6]thiadiazinan-4-yl)-phenylamine | BrC1=C(C=CC(=C1)C1CNS(NC1)(=O)=O)N | C9H12BrN3O2S
reactant | cyclohexane-1-enyl boronic acid | 0.191 mmol, 24.1 mg | C1(=CCCCC1)B(O)O | C6H11BO2
product | 2-Cyclohex-1-enyl-4-(1,1-dioxo-1λ6-[1,2,6]thiadiazinan-4-yl)-phenylamine | 30.7 mg, 65% | C1(=CCCCC1)C1=C(C=CC(=C1)C1CNS(NC1)(=O)=O)N | C15H21N3O2S
